US09163027B2
Methyl 4-[(4-fluorophenyl)(2-hydroxyethyl)amino]butanoate
A mixture of 2-[(4-fluorophenyl)amino]ethan-1-ol (1.3 g, 8.39 mmol), methyl 4-bromobutyrate (2.28 g, 12.58 mmol), potassium carbonate (2.31 g, 16.77 mmol), and anhydrous N,N-dimethylformamide (6 mL) was added to a 50 mL RBF with a magnetic stirring bar. The mixture was allowed to stir at 80° C. for 16 hours. Progress of the reaction was monitored by TLC using ethyl acetate:hexanes (1:1) (Rf product=0.5). Another aliquot of methyl 4-bromobutyrate (0.76 g, 4.20 mmol) was added and this was allowed to stir at 80° C. for 20 hours, until 2-[(4-fluorophenyl)amino]ethan-1-ol was consumed by TLC analysis. The reaction was partitioned using ethyl acetate (50 mL) and water (15 mL). The aqueous layer was extracted with ethyl acetate (20 mL). The combined organic layer was washed with saturated aqueous NaCl (3×10 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography using a gradient elution of 20-100% ethyl acetate in hexanes to afford the title compound as an oil (1.1 g, 52% yield).

reactant | 2-[(4-fluorophenyl)amino]ethan-1-ol | 8.39 mmol, 1.3 g | FC1=CC=C(C=C1)NCCO | C8H10FNO
reactant | methyl 4-bromobutyrate | 12.58 mmol, 2.28 g | BrCCCC(=O)OC | C5H9BrO2
reactant | potassium carbonate | 16.77 mmol, 2.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-bromobutyrate | 4.20 mmol, 0.76 g | BrCCCC(=O)OC | C5H9BrO2
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | Methyl 4-[(4-fluorophenyl)(2-hydroxyethyl)amino]butanoate | 1.1 g, 52% yield | FC1=CC=C(C=C1)N(CCCC(=O)OC)CCO | C13H18FNO3
